### PR TITLE
[Merged by Bors] -  feat(Order): order types

### PR DESCRIPTION
**Pull request by YanYablonovskiy**
Adding the basic definitions around order types, the equivalence classes of linear orders under order isomorphism.

---

See draft discussion at #33420 and refactoring task #28278 .

- [x] depends on: #33663 
- [x] depends on: #31889 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Defs/LinearOrder.lean [hunk 1]
```diff
@@ -236,4 +236,25 @@ instance : Std.LawfulBCmp (compare (α := α)) where
 
 end Ord
 
+/-- The category of linear orders. -/
```
Comment (vihdzp) [inline Mathlib/Order/Defs/LinearOrder.lean]: Might as well explain why this is here.
```suggestion
/-- The category of linear orders.

This will get reused to define `OrderType`. -/
```

File: Mathlib/Order/Types/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+-/
+module
+
+public import Mathlib.Order.Hom.Basic
+
+/-!
+# Order types
+
+Order types are defined as the quotient of linear orders under order isomorphism. They are endowed
+with a preorder, where an OrderType is smaller than another one there is an order embedding
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: (I wouldn't write less-equal, given that this isn't a partial order)
```suggestion
with a preorder, where an OrderType is ≤ to another when there is an order embedding
```

File: Mathlib/Order/Types/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,235 @@
...
+into it.
+
+## Main definitions
+
+* `OrderType`: the type of OrderTypes (in a given universe)
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
* `OrderType`: the type of order types (in a given universe)
```

File: Mathlib/Order/Types/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,235 @@
...
+* Dauben, J. W. Georg Cantor: His Mathematics and Philosophy of the Infinite. Princeton,
+  NJ: Princeton University Press, 1990.
+* Enderton, Herbert B. Elements of Set Theory. United Kingdom: Academic Press, 1977.
+
+## Tags
+
+order type, order isomorphism, linear order
+-/
+
+@[expose] public noncomputable section
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I'd argue we actually don't want to expose most things in this file, for instance...
```suggestion
public noncomputable section
```

File: Mathlib/Order/Types/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,235 @@
...
+/-- `OrderType.{u}` is the type of linear orders in `Type u`, up to order isomorphism. -/
+@[pp_with_univ]
+def OrderType : Type (u + 1) :=
+  Quotient OrderType.instSetoid
+
+namespace OrderType
+
+/-- A "canonical" type order-isomorphic to the order type `o`, living in the same universe.
+This is defined through the axiom of choice. -/
+public def ToType (o : OrderType) : Type u :=
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I don't think we should be exposing anything about `LinOrd`. (Also, `public` is implied already).
```suggestion
def ToType (o : OrderType) : Type u :=
```

File: Mathlib/Order/Types/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,235 @@
...
+  o.out.carrier
+
+instance (o : OrderType) : LinearOrder o.ToType :=
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean:70]: Don't want to expose this either. `o.ToType` should be a black box where you know nothing other than `type o.ToType = o`.

File: Mathlib/Order/Types/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,235 @@
...
+  o.out.str
+
+/-! ### Basic properties of the order type -/
+
+/-- The order type of the linear order on `α`. -/
+def type (α : Type u) [LinearOrder α] : OrderType :=
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean:77]: We don't want to expose this either.

File: Mathlib/Order/Types/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,235 @@
...
+
+instance zero : Zero OrderType where
+  zero := type PEmpty
+
+instance inhabited : Inhabited OrderType :=
+  ⟨0⟩
+instance : One OrderType where
+  one := type PUnit
+
+lemma one_def : (1 : OrderType) = type PUnit := rfl
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: This is implied by `type_of_unique`, so we don't need it.

File: Mathlib/Order/Types/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,235 @@
...
+instance (o : OrderType) : LinearOrder o.ToType :=
+  o.out.str
+
+/-! ### Basic properties of the order type -/
+
+/-- The order type of the linear order on `α`. -/
+def type (α : Type u) [LinearOrder α] : OrderType :=
+  ⟦⟨α⟩⟧
+
+instance zero : Zero OrderType where
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Potentially hot take: neither 0 or 1 should be exposed. They're not the order type of any given empty/unique type, but the order type of all of them. So exposing a choice seems silly.

File: Mathlib/Order/Types/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,235 @@
...
+  (OrderIso.ofIsEmpty α PEmpty).orderType_eq
+
+@[simp]
+theorem type_eq_zero [LinearOrder α] : type α = 0 ↔ IsEmpty α :=
+  ⟨fun h ↦
+    let ⟨s⟩ := type_eq.1 h
+    s.toEquiv.isEmpty,
+    @type_of_isEmpty α _⟩
+
+theorem type_ne_zero_iff [LinearOrder α] : type α ≠ 0 ↔ Nonempty α := by simp
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: For consistency, perhaps this should be `type_ne_zero`, and below should be `type_of_nonempty`? 

An alternate naming scheme would be to switch the other theorems to e.g. `type_eq_zero_iff` and `type_eq_zero`. I think @YaelDillies knows more than me here.

File: Mathlib/Order/Types/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,235 @@
...
+  rw [← @type_eq_zero o.ToType, type_toType]
+
+instance isEmpty_toType_zero : IsEmpty (ToType 0) :=
+ isEmpty_toType_iff.2 rfl
+
+@[simp]
+theorem nonempty_toType_iff {o : OrderType} : Nonempty o.ToType ↔ o ≠ 0 := by
+  rw [← @type_ne_zero_iff o.ToType, type_toType]
+
+protected theorem one_ne_zero : (1 : OrderType) ≠ 0 :=
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Can you replace this by the `NeZero (1 : OrderType)` instance you have below? It'll give you a theorem of the same name for free.

File: Mathlib/Order/Types/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,235 @@
...
+        ⟨(f.toOrderEmbedding.trans h).trans g.symm.toOrderEmbedding⟩⟩
+  le_refl o := inductionOn o (fun α _ ↦ ⟨(OrderIso.refl _).toOrderEmbedding⟩)
+  le_trans o₁ o₂ o₃ := inductionOn₃ o₁ o₂ o₃ fun _ _ _ _ _ _ ⟨f⟩ ⟨g⟩ ↦ ⟨f.trans g⟩
+
+instance instNeZeroOne : NeZero (1 : OrderType) :=
+  ⟨OrderType.one_ne_zero⟩
+
+theorem type_le_type_iff {α β} [LinearOrder α]
+    [LinearOrder β] : type α ≤ type β ↔ Nonempty (α ↪o β) :=
+  Iff.rfl
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  .rfl
```

File: Mathlib/Order/Types/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,235 @@
...
+@[simp]
+theorem bot_eq_zero : (⊥ : OrderType) = 0 :=
+  rfl
+
+@[simp]
+protected theorem not_lt_zero (o : OrderType) : ¬o < 0 :=
+  not_lt_bot
+
+#check lt_of_le_of_lt
+#check lt_iff_le_not_ge
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Placeholder?
```suggestion
```

File: Mathlib/Order/Types/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,235 @@
...
+
+@[simp]
+theorem pos_iff_ne_zero (o : OrderType) : 0 < o ↔ o ≠ 0 :=
+  ⟨ne_bot_of_gt, fun ho ↦ by simpa [@type_of_isEmpty PEmpty] using
+    (⟨⟨Function.Embedding.ofIsEmpty, by simp⟩, fun ⟨f⟩ ↦ PEmpty.elim
+      (f (Classical.choice (OrderType.nonempty_toType_iff.mpr ho)))⟩ : type PEmpty < type o.ToType)⟩
+
+/-- `ω` is the first infinite ordinal, defined as the order type of `ℕ`. -/
+public def omega0 : OrderType := type ℕ
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: This is not universe polymorphic! I think your easiest option is to do this:
```suggestion
-- TODO: define `OrderType.lift` and redefine this using it.
public def omega0 : OrderType := type <| ULift ℕ
```

Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: By the way, I do think this one def should be exposed.

File: Mathlib/Order/Types/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,235 @@
...
+@[simp]
+protected theorem not_lt_zero (o : OrderType) : ¬o < 0 :=
+  not_lt_bot
+
+#check lt_of_le_of_lt
+#check lt_iff_le_not_ge
+
+@[simp]
+theorem pos_iff_ne_zero (o : OrderType) : 0 < o ↔ o ≠ 0 :=
+  ⟨ne_bot_of_gt, fun ho ↦ by simpa [@type_of_isEmpty PEmpty] using
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Can't `simp` use this theorem already?
```suggestion
  ⟨ne_bot_of_gt, fun ho ↦ by simpa using
```

File: Mathlib/Order/Types/Defs.lean [hunk 16]
```diff
@@ -0,0 +1,235 @@
...
+    (⟨⟨Function.Embedding.ofIsEmpty, by simp⟩, fun ⟨f⟩ ↦ PEmpty.elim
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Isn't the first part of this line reproving 0 ≤ x? Can you call `zero_le` instead?

File: Mathlib/Order/Types/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,235 @@
...
+      (f (Classical.choice (OrderType.nonempty_toType_iff.mpr ho)))⟩ : type PEmpty < type o.ToType)⟩
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Can you use `type_lt_type` instead of abusing def-eq?

File: Mathlib/Order/Types/Defs.lean [hunk 18]
```diff
@@ -0,0 +1,243 @@
...
+
+/-- A "canonical" type order-isomorphic to the order type `o`, living in the same universe.
+This is defined through the axiom of choice. -/
+@[no_expose]
+def ToType (o : OrderType) : Type u :=
+  o.out.carrier
+
+/-- The local instance for some arbitrary linear order on `Type u` , order isomorphic within
+order type `o`. -/
+@[no_expose]
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean:69]: I believe this is redundant, this we're not in an `@[expose]` section. Likewise elsewhere.
```suggestion
```

File: Mathlib/Order/Types/Defs.lean [hunk 19]
```diff
@@ -0,0 +1,243 @@
...
+    [LinearOrder α] [LinearOrder β] (h : α ↪o β) (hne : ¬(Nonempty (β ↪o α))) : type α < type β :=
+  ⟨⟨h⟩,hne⟩
+
+alias _root_.OrderEmbedding.type_le_type := type_le_type
+
+@[simp]
+protected theorem zero_le (o : OrderType) : 0 ≤ o :=
+  inductionOn o (fun _ ↦ OrderEmbedding.ofIsEmpty.type_le_type)
+
+instance instOrdBot : OrderBot OrderType where
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Let's not name instances if we don't have to.
```suggestion
instance : OrderBot OrderType where
```

File: Mathlib/Order/Types/Defs.lean [hunk 20]
```diff
@@ -0,0 +1,243 @@
...
+This is defined through the axiom of choice. -/
+@[no_expose]
+def ToType (o : OrderType) : Type u :=
+  o.out.carrier
+
+/-- The local instance for some arbitrary linear order on `Type u` , order isomorphic within
+order type `o`. -/
+@[no_expose]
+local instance (o : OrderType) : LinearOrder o.ToType :=
+  o.out.str
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean:71]: Why is this not a global instance?

File: Mathlib/Order/Types/Defs.lean [hunk 21]
```diff
@@ -0,0 +1,243 @@
...
+
+open Function Set Equiv Order
+
+universe u v w w'
+
+variable {α : Type u} {β : Type v} {γ : Type w} {δ : Type w'}
+
+/-- Equivalence relation on linear orders on arbitrary types in universe `u`, given by order
+isomorphism. -/
+instance OrderType.instSetoid : Setoid LinOrd where
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]: Can you avoid making this an instance? The `Quotient` API should let you do that
```suggestion
def OrderType.setoid : Setoid LinOrd where
```

File: Mathlib/Order/Types/Defs.lean [hunk 22]
```diff
@@ -0,0 +1,243 @@
...
+
+@[no_expose]
+instance : One OrderType where
+  one := type PUnit
+
+@[simp]
+theorem type_toType (o : OrderType) : type o.ToType = o := surjInv_eq Quot.exists_rep o
+
+theorem type_eq {α β} [LinearOrder α] [LinearOrder β] :
+    type α = type β ↔ Nonempty (α ≃o β) :=
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_eq_type {α β : Type u} [LinearOrder α] [LinearOrder β] :
    type α = type β ↔ Nonempty (α ≃o β) :=
```

File: Mathlib/Order/Types/Defs.lean [hunk 23]
```diff
@@ -0,0 +1,243 @@
...
+  Quotient.eq'
+
+theorem _root_.RelIso.orderType_eq {α β} [LinearOrder α]
+    [LinearOrder β] (h : α ≃o β) : type α = type β :=
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_congr {α β : Type u} [LinearOrder α]
    [LinearOrder β] (e : α ≃o β) : type α = type β :=
```

File: Mathlib/Order/Types/Defs.lean [hunk 24]
```diff
@@ -0,0 +1,243 @@
...
+  type_eq.2 ⟨h⟩
+
+@[simp]
+theorem type_of_isEmpty [LinearOrder α] [IsEmpty α] : type α = 0 :=
+  (OrderIso.ofIsEmpty α PEmpty).orderType_eq
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  type_congr <| .ofIsEmpty α PEmpty
```

File: Mathlib/Order/Types/Defs.lean [hunk 25]
```diff
@@ -0,0 +1,243 @@
...
+
+@[simp]
+theorem type_eq_zero [LinearOrder α] : type α = 0 ↔ IsEmpty α :=
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]: This is a dangerous lemma to make simp because simp can close `type α = 0` thanks to `type_of_isEmpty`, but not `IsEmpty α`, because it doesn't run typeclass search
```suggestion
theorem type_eq_zero [LinearOrder α] : type α = 0 ↔ IsEmpty α :=
```

File: Mathlib/Order/Types/Defs.lean [hunk 26]
```diff
@@ -0,0 +1,243 @@
...
+    [LinearOrder β] : type α ≤ type β ↔ Nonempty (α ↪o β) :=
+  .rfl
+
+theorem type_le_type {α β}
+    [LinearOrder α] [LinearOrder β] (h : α ↪o β) : type α ≤ type β :=
+  ⟨h⟩
+
+theorem type_lt_type {α β}
+    [LinearOrder α] [LinearOrder β] (h : α ↪o β) (hne : ¬(Nonempty (β ↪o α))) : type α < type β :=
+  ⟨⟨h⟩,hne⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  ⟨⟨h⟩, hne⟩
```

File: Mathlib/Order/Types/Defs.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean]: The point is that we don't need the one-way implication because it cannot be used as a rewriting lemma by simp

File: Mathlib/Order/Types/Defs.lean (hunk 23 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: Surely we also want an alias for dot notation?

Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean]: Sure, why not, but then it should be in the `OrderIso` namespace and be called `orderTypeType_congr`

File: Mathlib/Order/Types/Defs.lean [hunk 27]
```diff
@@ -50,82 +50,83 @@ variable {α : Type u} {β : Type v} {γ : Type w} {δ : Type w'}
...
 
 /-- A "canonical" type order-isomorphic to the order type `o`, living in the same universe.
 This is defined through the axiom of choice. -/
-@[no_expose]
 def ToType (o : OrderType) : Type u :=
   o.out.carrier
 
+def ToLinord (o : OrderType) : LinearOrder o.ToType :=
+ o.out.str
+
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Why is this here?
```suggestion
```

File: Mathlib/Order/Types/Defs.lean [hunk 28]
```diff
@@ -204,15 +205,15 @@ theorem type_le_type {α β}
 
 theorem type_lt_type {α β}
     [LinearOrder α] [LinearOrder β] (h : α ↪o β) (hne : ¬(Nonempty (β ↪o α))) : type α < type β :=
-  ⟨⟨h⟩,hne⟩
+  ⟨⟨h⟩, hne⟩
 
 alias _root_.OrderEmbedding.type_le_type := type_le_type
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean:197]: Shouldn't this be?
```suggestion
alias _root_.OrderEmbedding.orderTypeType_le_orderTypeType := type_le_type
```
I do find this name extremely clunky. Perhaps we can stretch the naming conventions just a bit?

```suggestion
alias _root_.OrderEmbedding.orderType_le_orderType := type_le_type
```

File: Mathlib/Order/Types/Defs.lean [hunk 29]
```diff
@@ -0,0 +1,244 @@
...
+  one := type PUnit
+
+@[simp]
+theorem type_toType (o : OrderType) : type o.ToType = o := surjInv_eq Quot.exists_rep o
+
+theorem type_eq_type {α β : Type u} [LinearOrder α] [LinearOrder β] :
+    type α = type β ↔ Nonempty (α ≃o β) :=
+  Quotient.eq'
+
+theorem _root_.OrderIso.orderTypeType_congr {α β} [LinearOrder α]
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Can you register this as an alias?
```lean 4
alias _root_.OrderIso.orderTypeType_congr := type_congr
```

File: Mathlib/Order/Types/Defs.lean (hunk 10 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: `Nonempty α → type α ≠ 0` can most certainly be used by `simp`.

File: Mathlib/Order/Types/Defs.lean [hunk 30]
```diff
@@ -0,0 +1,244 @@
...
+@[simp]
+private theorem isEmpty_toType_iff {o : OrderType} : IsEmpty o.ToType ↔ o = 0 := by
+  rw [← @type_eq_zero o.ToType, type_toType]
+
+@[simp]
+private theorem nonempty_toType_iff {o : OrderType} : Nonempty o.ToType ↔ o ≠ 0 := by
+  rw [← @type_ne_zero_iff o.ToType, type_toType]
+
+protected theorem one_ne_zero : (1 : OrderType) ≠ 0 :=
+  type_ne_zero
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I don't think you addressed this suggestion I made. The point is that we should not have a theorem `Foo.bar` when a theorem `bar` already exists with typeclass assumptions that `Foo` satisfies.
```suggestion
instance : NeZero (1 : OrderType) :=
  ⟨type_ne_zero⟩
```

File: Mathlib/Order/Types/Defs.lean [hunk 31]
```diff
@@ -0,0 +1,244 @@
...
+
+theorem type_le_type_iff {α β} [LinearOrder α]
+    [LinearOrder β] : type α ≤ type β ↔ Nonempty (α ↪o β) :=
+  .rfl
+
+theorem type_le_type {α β}
+    [LinearOrder α] [LinearOrder β] (h : α ↪o β) : type α ≤ type β :=
+  ⟨h⟩
+
+theorem type_lt_type {α β}
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: I really don't think we need this, since it's a direct consequence of [`lt_iff_le_not_ge`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/PartialOrder.html#lt_iff_le_not_ge).

File: Mathlib/Order/Types/Defs.lean [hunk 32]
```diff
@@ -0,0 +1,244 @@
...
+    [LinearOrder α] [LinearOrder β] (h : α ↪o β) (hne : ¬(Nonempty (β ↪o α))) : type α < type β :=
+  ⟨⟨h⟩, hne⟩
+
+alias _root_.OrderEmbedding.type_le_type := type_le_type
+
+@[simp]
+protected theorem zero_le (o : OrderType) : 0 ≤ o :=
+  inductionOn o (fun _ ↦ OrderEmbedding.ofIsEmpty.type_le_type)
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  inductionOn o fun _ ↦ OrderEmbedding.ofIsEmpty.type_le_type
```

File: Mathlib/Order/Types/Defs.lean [hunk 33]
```diff
@@ -0,0 +1,244 @@
...
+@[simp]
+protected theorem not_lt_zero (o : OrderType) : ¬o < 0 :=
+  not_lt_bot
+
+@[simp]
+theorem pos_iff_ne_zero (o : OrderType) : 0 < o ↔ o ≠ 0 :=
+  ⟨ne_bot_of_gt, fun ho ↦ by
+    convert type_lt_type (α := PEmpty) (β := o.ToType) ⟨Function.Embedding.ofIsEmpty, by simp⟩
+      (fun ⟨f⟩ ↦ PEmpty.elim (f (Classical.choice (OrderType.nonempty_toType_iff.mpr ho))))
+    simp⟩
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: Small golf:
```suggestion
theorem pos_iff_ne_zero (o : OrderType) : 0 < o ↔ o ≠ 0 :=
  ⟨ne_bot_of_gt, fun ho ↦ by
    have := nonempty_toType_iff.2 ho
    rw [← type_toType o]
    exact ⟨⟨Function.Embedding.ofIsEmpty, nofun⟩, fun ⟨f⟩ ↦ IsEmpty.elim inferInstance f.toFun⟩⟩
```
You could also make this slightly more readable by using `where` notation:
```suggestion
theorem pos_iff_ne_zero (o : OrderType) : 0 < o ↔ o ≠ 0 where
  mp := ne_bot_of_gt
  mpr ho := by
    have := nonempty_toType_iff.2 ho
    rw [← type_toType o]
    exact ⟨⟨Function.Embedding.ofIsEmpty, nofun⟩, fun ⟨f⟩ ↦ IsEmpty.elim inferInstance f.toFun⟩
```
On a separate note, `o` should be an implicit argument.

File: Mathlib/Order/Types/Defs.lean [hunk 34]
```diff
@@ -0,0 +1,244 @@
...
+instance : OrderBot OrderType where
+  bot := 0
+  bot_le := OrderType.zero_le
+
+@[simp]
+theorem bot_eq_zero : (⊥ : OrderType) = 0 :=
+  rfl
+
+@[simp]
+protected theorem not_lt_zero (o : OrderType) : ¬o < 0 :=
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]: In my experience, we rarely need the explicit argument in theorems like these.
```suggestion
protected theorem not_lt_zero {o : OrderType} : ¬o < 0 :=
```

File: Mathlib/Order/Types/Defs.lean [hunk 35]
```diff
@@ -0,0 +1,244 @@
...
+The order is defined so that `type α ≤ type β` iff there exists an order embedding `α ↪o β`.
+-/
+@[no_expose]
+instance : Preorder OrderType where
+  le o₁ o₂ :=
+    Quotient.liftOn₂ o₁ o₂ (fun r s ↦ Nonempty (r ↪o s))
+    fun _ _ _ _ ⟨f⟩ ⟨g⟩ ↦ propext
+      ⟨fun ⟨h⟩ ↦ ⟨(f.symm.toOrderEmbedding.trans h).trans g.toOrderEmbedding⟩, fun ⟨h⟩ ↦
+        ⟨(f.toOrderEmbedding.trans h).trans g.symm.toOrderEmbedding⟩⟩
+  le_refl o := inductionOn o (fun α _ ↦  ⟨(OrderIso.refl _).toOrderEmbedding⟩)
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
  le_refl o := inductionOn o fun α _ ↦ ⟨(OrderIso.refl _).toOrderEmbedding⟩
```

File: Mathlib/Order/Types/Defs.lean [hunk 36]
```diff
@@ -0,0 +1,244 @@
...
+    (c : ∀ (α) [LinearOrder α] (β) [LinearOrder β],
+      type α = type β → f α = f β) {γ} [inst : LinearOrder γ] :
+    liftOn (type γ) f c = f γ := by rfl
+
+/-! ### The order on `OrderType` -/
+
+/--
+The order is defined so that `type α ≤ type β` iff there exists an order embedding `α ↪o β`.
+-/
+@[no_expose]
```
Comment (vihdzp) [inline Mathlib/Order/Types/Defs.lean:175]: I'm not actually sure whether we want this to be exposed or not, but either way this attribute is redundant.
```suggestion
```

File: Mathlib/Order/Types/Defs.lean (hunk 28 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:197]: The current name is okay if we believe that `type` here unambiguously refers to `OrderType.type`, which... I could believe?

File: Mathlib/Order/Types/Defs.lean (hunk 31 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean]: Surely we should instead have the version using `IsEmpty`?

File: Mathlib/Order/Types/Defs.lean (hunk 29 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean]: or
```lean 4
alias _root_.OrderIso.type_congr := type_congr
```

File: Mathlib/Order/Types/Defs.lean (hunk 30 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: I just forgot to push it..sorry

File: Mathlib/Order/Types/Defs.lean (hunk 28 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean:197]: There's also [`Ordinal.type`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/SetTheory/Ordinal/Basic.html#Ordinal.type).

File: Mathlib/Order/Types/Defs.lean (hunk 31 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: I feel like we could live without it, but yeah, if we are to have this then we should at least spell the condition using `IsEmpty`.

File: Mathlib/Order/Types/Defs.lean [hunk 37]
```diff
@@ -0,0 +1,238 @@
...
+-/
+module
+
+public import Mathlib.Order.Hom.Basic
+
+/-!
+# Order types
+
+Order types are defined as the quotient of linear orders under order isomorphism. They are endowed
+with a preorder, where an OrderType is ≤ to another when there is an order embedding
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
with a preorder, where an order type is less than or equal to another when there is an order embedding
```

File: Mathlib/Order/Types/Defs.lean [hunk 38]
```diff
@@ -0,0 +1,238 @@
...
+into it.
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
Order types are defined as the quotient of linear orders under order isomorphism. They are preordered
by order embeddings.
```
maybe?

File: Mathlib/Order/Types/Defs.lean [hunk 39]
```diff
@@ -0,0 +1,238 @@
...
+theorem type_ne_zero [LinearOrder α] [h : Nonempty α] : type α ≠ 0 :=
+  type_ne_zero_iff.2 h
+
+@[simp]
+theorem type_of_unique [LinearOrder α] [Nonempty α] [Subsingleton α] : type α = 1 := by
+  cases nonempty_unique α
+  exact (OrderIso.ofUnique α _).type_congr
+
+@[simp]
+theorem type_eq_one [LinearOrder α] : type α = 1 ↔ Nonempty (Unique α) :=
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]: As said previously, I would not make this simp

File: Mathlib/Order/Types/Defs.lean [hunk 40]
```diff
@@ -0,0 +1,238 @@
...
+    fun _ _ _ _ ⟨f⟩ ⟨g⟩ ↦ propext
+      ⟨fun ⟨h⟩ ↦ ⟨(f.symm.toOrderEmbedding.trans h).trans g.toOrderEmbedding⟩, fun ⟨h⟩ ↦
+        ⟨(f.toOrderEmbedding.trans h).trans g.symm.toOrderEmbedding⟩⟩
+  le_refl o := inductionOn o fun α _ ↦ ⟨(OrderIso.refl _).toOrderEmbedding⟩
+  le_trans o₁ o₂ o₃ := inductionOn₃ o₁ o₂ o₃ fun _ _ _ _ _ _ ⟨f⟩ ⟨g⟩ ↦ ⟨f.trans g⟩
+
+instance : NeZero (1 : OrderType) :=
+  ⟨type_ne_zero⟩
+
+theorem type_le_type_iff {α β} [LinearOrder α]
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_le_type_iff {α β : Type u} [LinearOrder α]
```
to make sure your lemmas don't suffer weird metavar issues

File: Mathlib/Order/Types/Defs.lean (hunk 36 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:175]: You haven't done this

File: Mathlib/Order/Types/Defs.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:77]: I'm not sure I agree here? This is a well-behaved operation, compared to `ToType`

File: Mathlib/Order/Types/Defs.lean (hunk 38 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: *preordered

File: Mathlib/Order/Types/Defs.lean (hunk 36 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean:175]: I kept this for the reasons we discussed in zulip chat , i.e same reason line 71 at `OrderType.instLinearOrderToType`  also has a `@[no-expose]` on the instance.  More concretely is produces type errors in treating `OrderType` as a `Quotient` , which also happened for  `OrderType.instLinearOrderToType`  .

Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean:175]: Yes, I've since learned that instances are exposed by default. Weird stuff.

File: Mathlib/Order/Types/Defs.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean:77]: It exposes `LinOrd`, which I believe should remain an implementation detail. Besides, the order type is entirely characterized by the `type_eq_type` theorem.

File: Mathlib/Order/Types/Defs.lean (hunk 39 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: How about tagging just one direction ?

Comment (vihdzp) [reply Mathlib/Order/Types/Defs.lean]: I think the lemma `[Subsingleton α] [Nonempty α] : type α = 1` should be `simp`. We should still have the iff, but that shouldn't be `simp`.

Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: yea we have `type_of_unique` as simp

File: Mathlib/Order/Types/Defs.lean [hunk 41]
```diff
@@ -0,0 +1,236 @@
...
+  mpr ho := by
+    have := nonempty_toType_iff.2 ho
+    rw [← type_toType o]
+    exact ⟨⟨Function.Embedding.ofIsEmpty, nofun⟩, fun ⟨f⟩ ↦ IsEmpty.elim inferInstance f.toFun⟩
+
+/-- `ω` is the first infinite ordinal, defined as the order type of `ℕ`. -/
+-- TODO: define `OrderType.lift` and redefine this using it.
+@[expose]
+def omega0 : OrderType := type <| ULift ℕ
+
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean:227]: Could we have `type \N = omega0` as a simp lemma?

File: Mathlib/Order/Types/Defs.lean [hunk 42]
```diff
@@ -233,4 +233,8 @@ def omega0 : OrderType := type <| ULift ℕ
 scoped notation "ω" => OrderType.omega0
 recommended_spelling "omega0" for "ω" in [omega0, «termω»]
 
+@[simp]
+theorem type_nat_eq : type ℕ = omega0 := type_congr ⟨Equiv.ulift.symm, @fun _ _ ↦ by
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_nat : type ℕ = omega0 := type_congr ⟨Equiv.ulift.symm, @fun _ _ ↦ by
```

File: Mathlib/Order/Types/Defs.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Order/Types/Defs.lean:77]: Sure, I can buy this

File: Mathlib/Order/Types/Defs.lean (hunk 10 above)
Comment (YanYablonovskiy) [reply Mathlib/Order/Types/Defs.lean]: I added the `simp` tag to `Nonempty α → type α ≠ 0` (which is just one below, `type_ne_zero` )

File: Mathlib/Order/Types/Defs.lean [hunk 43]
```diff
@@ -0,0 +1,242 @@
...
+order type, order isomorphism, linear order
+-/
+
+public noncomputable section
+
+open Function Set Equiv Order
+
+universe u v w w'
+
+variable {α : Type u} {β : Type v} {γ : Type w} {δ : Type w'}
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
universe u v
variable {α β : Type u} {δ : Sort v}
```
seems to be what you use. Please make sure you remove the redundant variables in the lemmas below

File: Mathlib/Order/Types/Defs.lean [hunk 44]
```diff
@@ -0,0 +1,239 @@
...
+
+order type, order isomorphism, linear order
+-/
+
+public noncomputable section
+
+open Function Set Equiv Order
+
+universe u v
+variable {α β : Type u} {δ : Sort v}
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]: Maybe even
```suggestion
variable {α β : Type u} [LinearOrder α] [LinearOrder β] {δ : Sort v}
```

File: Mathlib/Order/Types/Defs.lean [hunk 45]
```diff
@@ -0,0 +1,239 @@
...
+
+@[simp]
+theorem type_of_isEmpty [LinearOrder α] [IsEmpty α] : type α = 0 :=
+  type_congr <| .ofIsEmpty α PEmpty
+
+theorem type_eq_zero [LinearOrder α] : type α = 0 ↔ IsEmpty α :=
+  ⟨fun h ↦
+    let ⟨s⟩ := type_eq_type.1 h
+    s.toEquiv.isEmpty,
+    @type_of_isEmpty α _⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_eq_zero [LinearOrder α] : type α = 0 ↔ IsEmpty α where
  mp h :=
    let ⟨s⟩ := type_eq_type.1 h
    s.toEquiv.isEmpty
 mpr := @type_of_isEmpty α _
```

File: Mathlib/Order/Types/Defs.lean [hunk 46]
```diff
@@ -0,0 +1,239 @@
...
+
+@[simp]
+theorem type_toType (o : OrderType) : type o.ToType = o := surjInv_eq Quot.exists_rep o
+
+theorem type_eq_type [LinearOrder α] [LinearOrder β] :
+    type α = type β ↔ Nonempty (α ≃o β) :=
+  Quotient.eq'
+
+theorem type_congr [LinearOrder α]
+    [LinearOrder β] (h : α ≃o β) : type α = type β :=
```
Comment (YaelDillies) [inline Mathlib/Order/Types/Defs.lean]:
```suggestion
theorem type_congr [LinearOrder α] [LinearOrder β] (h : α ≃o β) : type α = type β :=
```
and there are many other unnecessary line breaks elsewhere

**Comment by YaelDillies** [comment]
I wonder whether we should move away from greek letters for the orders

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Order/Types/Defs.lean (hunk 18 above)
Comment (b-mehta) [reply Mathlib/Order/Types/Defs.lean:69]: I'm not sure this suggestion got applied

**Review by b-mehta — COMMENTED** [review]
Nice, thank you!

bors merge
